US05167949
2-Acetoxymethyl-7-hydroxy-4(3H)-pteridinone
Obtained using the procedure described in Example 1, starting with 5.0 g (0.0324 mole) of 3-amino-5-hydroxy-2-pyrazinecarboxamide, 29.5 g (0.134 mole) of triethyl orthoacetoxyacetate and 9.5 ml of acetic anhydride. Refluxing time: 1 hour 45 minutes. Yld: 3.8 g (50%), m.p. >300° C. (ethanol/N,N-dimethylformamide).

reactant | 3-amino-5-hydroxy-2-pyrazinecarboxamide | 0.0324 mole, 5.0 g | NC=1C(=NC=C(N1)O)C(=O)N | C5H6N4O2
reactant | acetic anhydride | 9.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol N,N-dimethylformamide | C(C)O.CN(C=O)C
product | 2-Acetoxymethyl-7-hydroxy-4(3H)-pteridinone | C(C)(=O)OCC1=NC2=NC(=CN=C2C(N1)=O)O | C9H8N4O4
